US05719166
b. 1-((9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinemethanol
A suspension of lithium aluminum hydride (4.53 g, 119.5 mmol) in tetrahydrofuran (175 mL) was heated to reflux temperature and was treated dropwise with a solution of ethyl 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate (9.83 g, 23.9 mmol) in tetrahydrofuran (75 mL) at a rate sufficient to maintain reflux. Upon complete addition, the mixture was stirred for 1 h at reflux, then was cooled to 0° C. and quenched by sequential addition of water (4.5 mL), 10% aqueous sodium hydroxide (4.5 mL) and water (13.5 mL). The resulting milky suspension was treated with Celite, warmed to room temperature and stirred for 15 min. The solids were removed by filtration through Celite, the filter cake was washed with tetrahydrofuran/methanol (20:1, 2×200 mL), and the filtrate was evaporated. Trituration of the solid obtained with ethyl acetate/hexane (1:1, 50 mL) and evaporation of solvent afforded the title compound as a white solid (8.40 g, 23.7 mmol, 99%). 1H NMR (d6-DMSO): δ7.24 (m, 4H), 6.93 (m, 4H), 4.39 (brs, 1H, CH2OH), 4.30 (s, 1H, H--C(10)), 3.36-3.21 (m, 4H, CH2OH, CH2N), 2.96 (m, 2H, eq-H--C(2')), 2.46 (s, 2H, H--C(11)), 2.15 (m, 2H, ax-H--C(2')), 1.60 (m, 2H, eq-H--C(3')), 1.35 (m, 1H, H--C(4')), 1.10 (m, 2H, ax-H--C(3')).

reactant | lithium aluminum hydride | 119.5 mmol, 4.53 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate | 23.9 mmol, 9.83 g | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)C(=O)N3CCC(CC3)C(=O)OCC | C24H24ClNO3
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 1-((9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinemethanol | 23.7 mmol, 8.40 g, 99% | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)CO | C22H24ClNO
